US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]piperidine
Piperidine (0.027 g, 0.321 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.062 g, 0.321 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.040 g, 0.107 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.008 g, 0.0181 mmol, 17%).

reactant | Piperidine | 0.321 mmol, 0.027 g | N1CCCCC1 | C5H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.321 mmol, 0.062 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.107 mmol, 0.040 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]piperidine | 0.0181 mmol, 0.008 g, 17% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCCCC2)C1)OC(C)=O)C)=O | C24H27NO7
